US04337256
Ethyl 1-isopropylisoquinoline-5-acetate (0.4 g) was dissolved in 20 ml of ethanol, and 5 ml of a 40% aqueous solution of monomethylamine was added. The mixture was stirred under heat for 12 hours. After the reaction, the solvent was distilled off. The residue was extracted with benzene, washed in water, and dried. The solvent was distilled off under reduced pressure. Recrystallization from benzenecyclohexane afforded 0.15 g of 1-isopropylisoquinoline-5-acetic acid methylamide as colorless needles having a melting point of 153.2° to 153.7° C.

reactant | Ethyl 1-isopropylisoquinoline-5-acetate | 0.4 g | C(C)(C)C1=NC=CC=2C(=CC=CC12)CC(=O)OCC | C16H19NO2
reactant | monomethylamine | CN | CH5N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-isopropylisoquinoline-5-acetic acid methylamide | 0.15 g | CNC(CC=1C=2C=CN=C(C2C=CC1)C(C)C)=O | C15H18N2O
